US08623889B2
Step 4: tert-butyl 7-chloro-2,6-naphthyridin-3-ylcarbamate
A mixture of 7-chloro-2,6-naphthyridine-3-carboxylic acid (360 mg, 1.8 mmol), tert-butyl alcohol (3.4 mL), N,N-diisopropylethylamine (1 mL, 5.6 mmol), and diphenylphosphonic azide (1.0 mL, 4.5 mmol) in toluene (6 mL) was heated at 110° C. for 1 hour. The cooled reaction mixture was diluted with ethyl acetate (50 mL) and washed with water (50 mL). The organic layer was separated, dried over sodium sulfate, filtered, and evaporated in vacuo to afford a residue that was purified by flash chromatography (silica, 12 g, ISCO, 0-60% ethyl acetate in heptane) to afford the title compound as a pale yellow solid (410 mg, 83%), which was used in the next step without further purification.

reactant | 7-chloro-2,6-naphthyridine-3-carboxylic acid | 1.8 mmol, 360 mg | ClC1=NC=C2C=C(N=CC2=C1)C(=O)O | C9H5ClN2O2
reactant | tert-butyl alcohol | 3.4 mL | C(C)(C)(C)O | C4H10O
reactant | N,N-diisopropylethylamine | 5.6 mmol, 1 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | diphenylphosphonic azide | 4.5 mmol, 1.0 mL | C1=CC=C(C=C1)OP(=O)(N=[N+]=[N-])OC2=CC=CC=C2 | C12H10N3O3P
solvent | toluene | 6 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 7-chloro-2,6-naphthyridin-3-ylcarbamate | 410 mg, 83% | ClC1=NC=C2C=C(N=CC2=C1)NC(OC(C)(C)C)=O | C13H14ClN3O2
